data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_234899_2,[C:1]([C:2]([H:14])([H:15])[H:16])([C:4]([O:7][H:10])=[O:9])(/[C:5](=[C:6](\[C:3]([H:17])([H:18])[H:19])[H:13])[O:8][H:11])[H:12]>>[C:1](\[C:2]([H:14])([H:15])[H:16])(=[C:5](\[C:6]([C:3]([H:17])([H:18])[H:19])([C:4]([O:7][H:10])=[O:9])[H:13])[O:8][H:11])[H:12],70.11810500003094
MR_187742_2,[C:1]([N:5]([C:3]([H:14])([H:15])[H:18])[C:4]([H:16])([H:17])[H:19])([N:6]([O:7][C:2]([H:11])([H:12])[H:13])[H:8])([H:9])[H:10]>>[C:1]([N:6]([N:5]([C:3]([H:14])([H:15])[H:18])[C:4]([H:16])([H:17])[H:19])[H:8])([O:7][C:2]([H:11])([H:12])[H:13])([H:9])[H:10],67.86977250003602
MR_133774_0,[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])([O:7][H:11])[H:13])([C:4]([O:5][H:9])=[O:8])([O:6][H:10])[H:12]>>[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])([C:4]([O:5][H:9])=[O:8])[H:13])([O:6][H:10])([O:7][H:11])[H:12],46.1149749999953
MR_376802_1,[C:1]([C:2]([N:3]([C:4](=[O:7])[H:14])[H:10])([H:12])[H:13])([C:5](=[O:8])[H:15])([O:6][H:9])[H:11]>>[C:1]([C:2]([N:3]([C:4](=[O:7])[H:14])[H:10])([H:12])[H:13])([C:5]([O:8][H:9])([H:11])[H:15])=[O:6],44.15843000001274
MR_40017_0,[C:1](/[N:8]=[C:4](\[C:2]([H:13])([H:14])[H:15])[N:3]([O:6][H:9])[N:7][C:5]([H:16])[H:17])([H:10])([H:11])[H:12]>>[C:1]([N:8](/[C:4]([C:2]([H:13])([H:14])[H:15])=[N:3]\[O:6][H:9])[N:7]=[C:5]([H:16])[H:17])([H:10])([H:11])[H:12],67.36275249999636
MR_63869_1,[C:1]([C:3]([O:5][H:8])=[O:7])(/[C:4]([C:2]([H:12])([H:13])[H:14])=[N:6]/[H:9])([H:10])[H:11]>>[C:1](=[C:4]([C:2]([H:12])([H:13])[H:14])[N:6]([C:3]([O:5][H:8])=[O:7])[H:9])([H:10])[H:11],55.366207500001536
MR_672242_1,[C:1]([C:3]([H:17])([H:18])[H:19])([C:4]([H:16])([H:20])[H:21])([N:5]([C:2]([H:13])([H:14])[H:15])[N:7]([H:11])[H:12])[N:6]([O:8][H:9])[H:10]>>[C:1]([C:3]([H:17])([H:18])[H:19])([C:4]([H:16])([H:20])[H:21])([N:6]([N:5]([C:2]([H:13])([H:14])[H:15])[N:7]([H:11])[H:12])[H:10])[O:8][H:9],66.58151500000699
MR_431153_0,[C:1]([O:4]/[N:6]=[C:3](/[N:2]([O:5][H:7])[H:8])[H:9])([H:10])([H:11])[H:12]>>[C:1]([O:4]/[C:3](=[N:6]/[N:2]([O:5][H:7])[H:8])[H:9])([H:10])([H:11])[H:12],72.92240249997761
MR_204666_0,[C:1]([C:3]([O:7][H:10])=[O:9])(/[C:4](=[C:6](\[C:2]([H:16])([H:17])[H:18])[H:15])[O:8][H:11])([N:5]([H:13])[H:14])[H:12]>>[C:1](=[C:4](\[C:6]([C:2]([H:16])([H:17])[H:18])([C:3]([O:7][H:10])=[O:9])[H:15])[O:8][H:11])(\[N:5]([H:13])[H:14])[H:12],67.69156249998659
MR_529815_1,[n:1]1([O:6][H:8])/[c:2](=[N:7]/[H:9])[o:5][c:3]([H:10])[c:4]1[H:11]>>[N:1](=[C:4](/[C:3]1([H:10])/[C:2](=[N:7]/[H:9])[O:5]1)[H:11])\[O:6][H:8],71.39506750001715
MR_457951_1,[C:1]([C:2]([H:14])([H:15])[H:19])([C:3]([H:16])([H:17])[H:18])(/[C:6](=[C:4](\[N:5]([H:11])[H:12])[O:8][H:10])[H:13])[O:7][H:9]>>[C:1]([C:2]([H:14])([H:15])[H:19])([C:3]([H:16])([H:17])[H:18])=[C:6]([C:4]([N:5]([H:11])[H:12])([O:7][H:9])[O:8][H:10])[H:13],54.186507500019445
MR_127639_2,[C:1]([C:5]([C:2]([C:4]([H:16])([H:17])[H:18])([H:11])[H:12])=[O:8])([O:6][C:3]([H:13])([H:14])[H:15])([O:7][H:9])[H:10]>>[C:1]1([O:7][H:9])([H:10])[C:5]([C:2]([C:4]([H:16])([H:17])[H:18])([H:11])[H:12])([O:6][C:3]([H:13])([H:14])[H:15])[O:8]1,65.69297500000317
MR_528735_0,[C:1]([C:2]([H:13])([H:14])[H:15])([C:5]([N:4]([C:3]([H:16])([H:17])[H:18])[H:10])=[O:8])([N:6]([H:11])[H:12])[O:7][H:9]>>[C:1]1([C:2]([H:13])([H:14])[H:15])([O:7][H:9])[C:5]([N:4]([C:3]([H:16])([H:17])[H:18])[H:10])([N:6]([H:11])[H:12])[O:8]1,70.65273499996522
MR_349660_1,[C:1]([C:5]([N:4]([O:7][H:8])[H:9])=[C:6]([C:2]([H:13])([H:14])[H:17])[C:3]([H:15])([H:16])[H:18])([H:10])([H:11])[H:12]>>[C:1](/[C:5](=[N:4]\[H:9])[C:6]([C:2]([H:13])([H:14])[H:17])([C:3]([H:15])([H:16])[H:18])[O:7][H:8])([H:10])([H:11])[H:12],40.58042499998635
MR_507883_1,[C@@:1]([N:6]([C:2]([H:12])([H:13])[H:17])[C:3]([H:14])([H:15])[H:16])([O:8][H:10])([N:9]=[C:7]([C:4]([H:18])([H:19])[H:23])[C:5]([H:20])([H:21])[H:22])[H:11]>>[C:1](\[O:8][H:10])(=[N:9]/[C:7]([C:4]([H:18])([H:19])[H:23])([C:5]([H:20])([H:21])[H:22])[N:6]([C:2]([H:12])([H:13])[H:17])[C:3]([H:14])([H:15])[H:16])[H:11],47.526222499963495
MR_504325_1,[N:1]1=[C:2]([N:4]([H:8])[H:9])[O:7][C:3](=[C:5]([H:10])[H:11])[O:6]1>>[N:1]1([C:2]([N:4]([H:8])[H:9])=[O:7])[C:3](=[C:5]([H:10])[H:11])[O:6]1,54.55422250001845
MR_663359_1,[C:1]([c:4]1[n:2]([H:7])[o:6][c:3]1[N:5]([H:8])[H:9])([H:10])([H:11])[H:12]>>[C:1]([C:4]1=[N:2][O:6][C:3]1([N:5]([H:8])[H:9])[H:7])([H:10])([H:11])[H:12],51.02076999998658
MR_236334_1,[C:1](/[C:3](=[C:4](\[C:2]([H:11])([H:12])[H:13])[H:10])[H:9])([N:5]=[O:6])([H:7])[H:8]>>[C:1](=[C:3]([C:4]([C:2]([H:11])([H:12])[H:13])([N:5]=[O:6])[H:10])[H:9])([H:7])[H:8],25.438222500014973
MR_134699_0,[N:1](/[C:2]([N:4]([H:11])[H:12])=[N:6]\[N:3]([H:9])[H:10])([N:7]=[C:5]([H:13])[H:14])[H:8]>>[N:1](=[C:2](\[N:4]([H:11])[H:12])[N:6]([N:3]([H:9])[H:10])[N:7]=[C:5]([H:13])[H:14])\[H:8],67.46880000001397
